US06685995B1
In 40 ml of dichloromethane were dissolved 3.0 g (13 mmol) of 4-(4-propylcyclohexyl)cyclohexanol, 2.3 g (24 mmol) of difluoroacetic acid, and 0.9 g (9 mmol) of triethylamine, and this solution was cooled down to 0° C. To this solution was added dropwise 20 ml of solution of 3.1 g (15 mmol) of DCC in dichloromethane, and the mixture was stirred at the same temperature for 1 hour and at room temperature for 17 hours. After the crystals in the suspension thus obtained were filtered off, the solvent was distilled off under a reduced pressure. After the residue was purified by column chromatography on silica gel (eluent: heptane/toluene=1/1), the solvent was distilled off, and the residue was subjected twice to recrystallization by using heptane to give 2.0 g (6.6 mmol) of difluoroacetic acid 4-(4-propylcyclohexyl)cyclohexyl ester. Yield of this compound based on 4-(4-propylcyclohexyl)-cyclohexanol was 51%.

reactant | 4-(4-propylcyclohexyl)cyclohexanol | 13 mmol, 3.0 g | C(CC)C1CCC(CC1)C1CCC(CC1)O | C15H28O
reactant | difluoroacetic acid | 24 mmol, 2.3 g | FC(C(=O)O)F | C2H2F2O2
reactant | triethylamine | 9 mmol, 0.9 g | C(C)N(CC)CC | C6H15N
reactant | DCC | 15 mmol, 3.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | difluoroacetic acid 4-(4-propylcyclohexyl)cyclohexyl ester | 6.6 mmol, 2.0 g | C(CC)C1CCC(CC1)C1CCC(CC1)OC(C(F)F)=O | C17H28F2O2
